US08193199B2
To a heterogeneous mixture of 2-(bromomethyl)-5-chloro-3-(3-fluorophenyl)-quinoxaline (0.2401 g, 0.6829 mmol) in DMF (5.003 mL, 0.6829 mmol) was added potassium phthalimide (0.3162 g, 1.707 mmol) and the heterogeneous mixture was stirred at 100° C. After stirring at 100° C. for 1 h, the mixture was concentrated under reduced pressure and triturated with water (30 mL). The precipitate was collected by filtration. The solid was washed with water (50 mL), then MeOH (100 mL), and dried to give 2-((5-chloro-3-(3-fluorophenyl)-quinoxalin-2-yl)methyl)isoindoline-1,3-dione as an off-white solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 8.04 (1H, dd, J=7.6, 1.4 Hz), 7.84-7.92 (5H, m), 7.60-7.81 (4H, m), 7.38-7.46 (1H, m), 5.22 (2H, s); LC-MS (ESI) m/z 418.1 [M+H]+. The crude product was carried on crude without purification for the next step.

reactant | 2-(bromomethyl)-5-chloro-3-(3-fluorophenyl)-quinoxaline | 0.6829 mmol, 0.2401 g | BrCC1=NC2=CC=CC(=C2N=C1C1=CC(=CC=C1)F)Cl | C15H9BrClFN2
reactant | DMF | 0.6829 mmol, 5.003 mL | CN(C)C=O | C3H7NO
reactant | potassium phthalimide | 1.707 mmol, 0.3162 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
product | 2-((5-chloro-3-(3-fluorophenyl)-quinoxalin-2-yl)methyl)isoindoline-1,3-dione | ClC1=C2N=C(C(=NC2=CC=C1)CN1C(C2=CC=CC=C2C1=O)=O)C1=CC(=CC=C1)F | C23H13ClFN3O2
